US04173463
Tributyl((4-chlorophenylthio)methyl)phosphonium chloride (1)
A solution of 8.45 g of tri(n-butyl)phosphine and 8.33 g of chloromethyl 4-chlorophenyl sulfide in 25 ml of p-dioxane was stirred and refluxed (101°-102° C.) for 20 hours. The mixture was cooled to room temperature and diluted with 100 ml of hexane. The white precipitate was filtered and dried to give 1, as a solid, mp 113°-114° C.

reactant | tri(n-butyl)phosphine | 8.45 g | C(CCC)P(CCCC)CCCC | C12H27P
reactant | chloromethyl 4-chlorophenyl sulfide | 8.33 g | ClC1=CC=C(C=C1)SCCl | C7H6Cl2S
solvent | p-dioxane | 25 ml | O1CCOCC1 | C4H8O2
solvent | hexane | 100 ml | CCCCCC | C6H14
product | Tributyl((4-chlorophenylthio)methyl)phosphonium chloride | [Cl-].C(CCC)[P+](CSC1=CC=C(C=C1)Cl)(CCCC)CCCC | InChI=1S/C19H33ClPS.ClH/c1-4-7-14-21(15-8-5-2,16-9-6-3)17-22-19-12-10-18(20)11-13-19;/h10-13H,4-9,14-17H2,1-3H3;1H/q+1;/p-1
